* PEX produced on Mon Sep 21 06:44:38 PM CEST 2026 using /foss/tools/sak/sak-pex.sh with m=2 and s=1
* NGSPICE file created from vco_core_1.ext - technology: ihp-sg13cmos5l

.subckt vco_core_1 in out vp gnd en11 en11n en5 en5n en11_uq0 en11n_uq0 
X0 a_n2730_n1386# in gnd gnd sg13_lv_nmos ad=76f pd=0.78u as=0.136p ps=1.48u w=0.4u l=1.84u
X1 gnd in a_n1642_n222# gnd sg13_lv_nmos ad=0.136p pd=1.48u as=76f ps=0.78u w=0.4u l=1.84u
X2 vp vco_delay_cell_1_6.pgt a_1822_208# vp sg13_lv_pmos ad=0.204p pd=1.88u as=0.114p ps=0.98u w=0.6u l=1.84u
X3 vp vco_delay_cell_1_6.pgt a_2910_n1856# vp sg13_lv_pmos ad=0.204p pd=1.88u as=0.114p ps=0.98u w=0.6u l=1.84u
X4 vco_delay_cell_1_6.out vco_delay_cell_1_6.in a_n1578_n1856# vp sg13_lv_pmos ad=0.114p pd=0.98u as=0.204p ps=1.88u w=0.6u l=0.92u
X5 a_n418_n1386# in gnd gnd sg13_lv_nmos ad=76f pd=0.78u as=0.136p ps=1.48u w=0.4u l=1.84u
X6 a_n1646_208# vco_delay_cell_1_10.in vco_delay_cell_1_10.out vp sg13_lv_pmos ad=0.204p pd=1.88u as=0.114p ps=0.98u w=0.6u l=0.92u
X7 a_3454_208# vco_delay_cell_1_6.pgt vp vp sg13_lv_pmos ad=0.114p pd=0.98u as=0.204p ps=1.88u w=0.6u l=1.84u
X8 vco_delay_cell_1_0.out vco_delay_cell_1_1.out a_2910_n1856# vp sg13_lv_pmos ad=0.114p pd=0.98u as=0.204p ps=1.88u w=0.6u l=0.92u
X9 a_1826_n1386# vco_delay_cell_1_4.out vco_delay_cell_1_1.out gnd sg13_lv_nmos ad=0.136p pd=1.48u as=76f ps=0.78u w=0.4u l=0.92u
X10 a_n2730_n1386# vco_delay_cell_1_7.in vco_delay_cell_1_6.in gnd sg13_lv_nmos ad=0.136p pd=1.48u as=76f ps=0.78u w=0.4u l=0.92u
X11 vco_delay_cell_1_1.out vco_delay_cell_1_4.out a_1822_n1856# vp sg13_lv_pmos ad=0.114p pd=0.98u as=0.204p ps=1.88u w=0.6u l=0.92u
X12 a_n1574_n1386# vco_delay_cell_1_6.in vco_delay_cell_1_6.out gnd sg13_lv_nmos ad=0.136p pd=1.48u as=76f ps=0.78u w=0.4u l=0.92u
X13 gnd in a_1826_n222# gnd sg13_lv_nmos ad=0.136p pd=1.48u as=76f ps=0.78u w=0.4u l=1.84u
X14 vco_delay_cell_1_3.out vco_delay_cell_1_8.out a_670_n222# gnd sg13_lv_nmos ad=76f pd=0.78u as=0.136p ps=1.48u w=0.4u l=0.92u
X15 vco_delay_cell_1_4.out vco_delay_cell_1_5.out a_738_n1386# gnd sg13_lv_nmos ad=76f pd=0.78u as=0.136p ps=1.48u w=0.4u l=0.92u
X16 a_n486_n222# vco_delay_cell_1_10.out vco_delay_cell_1_8.out gnd sg13_lv_nmos ad=0.136p pd=1.48u as=76f ps=0.78u w=0.4u l=0.92u
X17 gnd in a_3458_n222# gnd sg13_lv_nmos ad=0.136p pd=1.48u as=76f ps=0.78u w=0.4u l=1.84u
X18 vco_delay_cell_1_7.in en11n vco_delay_cell_1_2.out vp sg13_lv_pmos ad=0.1005p pd=1.34u as=0.1005p ps=1.34u w=0.15u l=0.13u
X19 vco_delay_cell_1_0.out vco_delay_cell_1_1.out a_2914_n1386# gnd sg13_lv_nmos ad=76f pd=0.78u as=0.136p ps=1.48u w=0.4u l=0.92u
X20 vco_delay_cell_1_9.in en5n vco_delay_cell_1_2.out vp sg13_lv_pmos ad=0.1005p pd=1.34u as=0.1005p ps=1.34u w=0.15u l=0.13u
X21 gnd in a_2914_n1386# gnd sg13_lv_nmos ad=0.136p pd=1.48u as=76f ps=0.78u w=0.4u l=1.84u
X22 a_1822_208# vco_delay_cell_1_3.out vco_delay_cell_1_2.out vp sg13_lv_pmos ad=0.204p pd=1.88u as=0.114p ps=0.98u w=0.6u l=0.92u
X23 a_1826_n222# in gnd gnd sg13_lv_nmos ad=76f pd=0.78u as=0.136p ps=1.48u w=0.4u l=1.84u
X24 vco_delay_cell_1_10.out vco_delay_cell_1_10.in a_n1642_n222# gnd sg13_lv_nmos ad=76f pd=0.78u as=0.136p ps=1.48u w=0.4u l=0.92u
X25 a_734_n1856# vco_delay_cell_1_6.pgt vp vp sg13_lv_pmos ad=0.114p pd=0.98u as=0.204p ps=1.88u w=0.6u l=1.84u
X26 vp vco_delay_cell_1_6.pgt a_1822_n1856# vp sg13_lv_pmos ad=0.204p pd=1.88u as=0.114p ps=0.98u w=0.6u l=1.84u
X27 vp vco_delay_cell_1_6.pgt a_n2734_n1856# vp sg13_lv_pmos ad=0.204p pd=1.88u as=0.114p ps=0.98u w=0.6u l=1.84u
X28 a_n2734_n1856# vco_delay_cell_1_7.in vco_delay_cell_1_6.in vp sg13_lv_pmos ad=0.204p pd=1.88u as=0.114p ps=0.98u w=0.6u l=0.92u
X29 a_n422_n1856# vco_delay_cell_1_6.out vco_delay_cell_1_5.out vp sg13_lv_pmos ad=0.204p pd=1.88u as=0.114p ps=0.98u w=0.6u l=0.92u
X30 vp vco_delay_cell_1_6.pgt a_n1578_n1856# vp sg13_lv_pmos ad=0.204p pd=1.88u as=0.114p ps=0.98u w=0.6u l=1.84u
X31 a_n1578_n1856# vco_delay_cell_1_6.in vco_delay_cell_1_6.out vp sg13_lv_pmos ad=0.204p pd=1.88u as=0.114p ps=0.98u w=0.6u l=0.92u
X32 gnd in vco_delay_cell_1_6.pgt gnd sg13_lv_nmos ad=0.136p pd=1.48u as=76f ps=0.78u w=0.4u l=1.94u
X33 a_n418_n1386# vco_delay_cell_1_6.out vco_delay_cell_1_5.out gnd sg13_lv_nmos ad=0.136p pd=1.48u as=76f ps=0.78u w=0.4u l=0.92u
X34 a_738_n1386# vco_delay_cell_1_5.out vco_delay_cell_1_4.out gnd sg13_lv_nmos ad=0.136p pd=1.48u as=76f ps=0.78u w=0.4u l=0.92u
X35 vco_delay_cell_1_2.out vco_delay_cell_1_3.out a_1822_208# vp sg13_lv_pmos ad=0.114p pd=0.98u as=0.204p ps=1.88u w=0.6u l=0.92u
X36 a_n1574_n1386# in gnd gnd sg13_lv_nmos ad=76f pd=0.78u as=0.136p ps=1.48u w=0.4u l=1.84u
X37 a_n490_208# vco_delay_cell_1_10.out vco_delay_cell_1_8.out vp sg13_lv_pmos ad=0.204p pd=1.88u as=0.114p ps=0.98u w=0.6u l=0.92u
X38 a_3458_n222# in gnd gnd sg13_lv_nmos ad=76f pd=0.78u as=0.136p ps=1.48u w=0.4u l=1.84u
X39 vp vco_delay_cell_1_6.pgt a_n1646_208# vp sg13_lv_pmos ad=0.204p pd=1.88u as=0.114p ps=0.98u w=0.6u l=1.84u
X40 vco_delay_cell_1_9.in en5 vco_delay_cell_1_2.out gnd sg13_lv_nmos ad=0.1005p pd=1.34u as=0.1005p ps=1.34u w=0.15u l=0.13u
X41 vco_delay_cell_1_6.in vco_delay_cell_1_7.in a_n2730_n1386# gnd sg13_lv_nmos ad=76f pd=0.78u as=0.136p ps=1.48u w=0.4u l=0.92u
X42 vp vco_delay_cell_1_6.pgt a_666_208# vp sg13_lv_pmos ad=0.204p pd=1.88u as=0.114p ps=0.98u w=0.6u l=1.84u
X43 a_n486_n222# in gnd gnd sg13_lv_nmos ad=76f pd=0.78u as=0.136p ps=1.48u w=0.4u l=1.84u
X44 a_n490_208# vco_delay_cell_1_6.pgt vp vp sg13_lv_pmos ad=0.114p pd=0.98u as=0.204p ps=1.88u w=0.6u l=1.84u
X45 vco_delay_cell_1_1.out vco_delay_cell_1_4.out a_1826_n1386# gnd sg13_lv_nmos ad=76f pd=0.78u as=0.136p ps=1.48u w=0.4u l=0.92u
X46 a_1826_n222# vco_delay_cell_1_3.out vco_delay_cell_1_2.out gnd sg13_lv_nmos ad=0.136p pd=1.48u as=76f ps=0.78u w=0.4u l=0.92u
X47 a_738_n1386# in gnd gnd sg13_lv_nmos ad=76f pd=0.78u as=0.136p ps=1.48u w=0.4u l=1.84u
X48 gnd in a_1826_n1386# gnd sg13_lv_nmos ad=0.136p pd=1.48u as=76f ps=0.78u w=0.4u l=1.84u
X49 vco_delay_cell_1_8.out vco_delay_cell_1_10.out a_n490_208# vp sg13_lv_pmos ad=0.114p pd=0.98u as=0.204p ps=1.88u w=0.6u l=0.92u
X50 gnd in a_n2730_n1386# gnd sg13_lv_nmos ad=0.136p pd=1.48u as=76f ps=0.78u w=0.4u l=1.84u
X51 gnd in a_670_n222# gnd sg13_lv_nmos ad=0.136p pd=1.48u as=76f ps=0.78u w=0.4u l=1.84u
X52 a_3458_n222# vco_delay_cell_1_9.in out gnd sg13_lv_nmos ad=0.136p pd=1.48u as=76f ps=0.78u w=0.4u l=0.92u
X53 vp vco_delay_cell_1_6.pgt a_n422_n1856# vp sg13_lv_pmos ad=0.204p pd=1.88u as=0.114p ps=0.98u w=0.6u l=1.84u
X54 a_n1642_n222# vco_delay_cell_1_10.in vco_delay_cell_1_10.out gnd sg13_lv_nmos ad=0.136p pd=1.48u as=76f ps=0.78u w=0.4u l=0.92u
X55 vp vco_delay_cell_1_6.pgt a_734_n1856# vp sg13_lv_pmos ad=0.204p pd=1.88u as=0.114p ps=0.98u w=0.6u l=1.84u
X56 vp vco_delay_cell_1_6.pgt a_3454_208# vp sg13_lv_pmos ad=0.204p pd=1.88u as=0.114p ps=0.98u w=0.6u l=1.84u
X57 gnd in a_n1574_n1386# gnd sg13_lv_nmos ad=0.136p pd=1.48u as=76f ps=0.78u w=0.4u l=1.84u
X58 a_2910_n1856# vco_delay_cell_1_6.pgt vp vp sg13_lv_pmos ad=0.114p pd=0.98u as=0.204p ps=1.88u w=0.6u l=1.84u
X59 vco_delay_cell_1_6.in vco_delay_cell_1_7.in a_n2734_n1856# vp sg13_lv_pmos ad=0.114p pd=0.98u as=0.204p ps=1.88u w=0.6u l=0.92u
X60 gnd in a_n486_n222# gnd sg13_lv_nmos ad=0.136p pd=1.48u as=76f ps=0.78u w=0.4u l=1.84u
X61 vco_delay_cell_1_8.out vco_delay_cell_1_10.out a_n486_n222# gnd sg13_lv_nmos ad=76f pd=0.78u as=0.136p ps=1.48u w=0.4u l=0.92u
X62 a_2910_n1856# vco_delay_cell_1_1.out vco_delay_cell_1_0.out vp sg13_lv_pmos ad=0.204p pd=1.88u as=0.114p ps=0.98u w=0.6u l=0.92u
X63 a_1822_n1856# vco_delay_cell_1_4.out vco_delay_cell_1_1.out vp sg13_lv_pmos ad=0.204p pd=1.88u as=0.114p ps=0.98u w=0.6u l=0.92u
X64 vco_delay_cell_1_2.out vco_delay_cell_1_3.out a_1826_n222# gnd sg13_lv_nmos ad=76f pd=0.78u as=0.136p ps=1.48u w=0.4u l=0.92u
X65 a_666_208# vco_delay_cell_1_8.out vco_delay_cell_1_3.out vp sg13_lv_pmos ad=0.204p pd=1.88u as=0.114p ps=0.98u w=0.6u l=0.92u
X66 vco_delay_cell_1_5.out vco_delay_cell_1_6.out a_n422_n1856# vp sg13_lv_pmos ad=0.114p pd=0.98u as=0.204p ps=1.88u w=0.6u l=0.92u
X67 a_670_n222# in gnd gnd sg13_lv_nmos ad=76f pd=0.78u as=0.136p ps=1.48u w=0.4u l=1.84u
X68 a_n2734_n1856# vco_delay_cell_1_6.pgt vp vp sg13_lv_pmos ad=0.114p pd=0.98u as=0.204p ps=1.88u w=0.6u l=1.84u
X69 vco_delay_cell_1_5.out vco_delay_cell_1_6.out a_n418_n1386# gnd sg13_lv_nmos ad=76f pd=0.78u as=0.136p ps=1.48u w=0.4u l=0.92u
X70 vp vco_delay_cell_1_6.pgt a_n490_208# vp sg13_lv_pmos ad=0.204p pd=1.88u as=0.114p ps=0.98u w=0.6u l=1.84u
X71 a_1822_208# vco_delay_cell_1_6.pgt vp vp sg13_lv_pmos ad=0.114p pd=0.98u as=0.204p ps=1.88u w=0.6u l=1.84u
X72 vco_delay_cell_1_4.out vco_delay_cell_1_5.out a_734_n1856# vp sg13_lv_pmos ad=0.114p pd=0.98u as=0.204p ps=1.88u w=0.6u l=0.92u
X73 gnd in a_738_n1386# gnd sg13_lv_nmos ad=0.136p pd=1.48u as=76f ps=0.78u w=0.4u l=1.84u
X74 a_n1578_n1856# vco_delay_cell_1_6.pgt vp vp sg13_lv_pmos ad=0.114p pd=0.98u as=0.204p ps=1.88u w=0.6u l=1.84u
X75 a_2914_n1386# in gnd gnd sg13_lv_nmos ad=76f pd=0.78u as=0.136p ps=1.48u w=0.4u l=1.84u
X76 a_3454_208# vco_delay_cell_1_9.in out vp sg13_lv_pmos ad=0.204p pd=1.88u as=0.114p ps=0.98u w=0.6u l=0.92u
X77 vco_delay_cell_1_6.pgt in gnd gnd sg13_lv_nmos ad=76f pd=0.78u as=0.136p ps=1.48u w=0.4u l=1.94u
X78 a_2914_n1386# vco_delay_cell_1_1.out vco_delay_cell_1_0.out gnd sg13_lv_nmos ad=0.136p pd=1.48u as=76f ps=0.78u w=0.4u l=0.92u
X79 vco_delay_cell_1_6.out vco_delay_cell_1_6.in a_n1574_n1386# gnd sg13_lv_nmos ad=76f pd=0.78u as=0.136p ps=1.48u w=0.4u l=0.92u
X80 a_1826_n1386# in gnd gnd sg13_lv_nmos ad=76f pd=0.78u as=0.136p ps=1.48u w=0.4u l=1.84u
X81 a_n1642_n222# in gnd gnd sg13_lv_nmos ad=76f pd=0.78u as=0.136p ps=1.48u w=0.4u l=1.84u
X82 a_n422_n1856# vco_delay_cell_1_6.pgt vp vp sg13_lv_pmos ad=0.114p pd=0.98u as=0.204p ps=1.88u w=0.6u l=1.84u
X83 out vco_delay_cell_1_9.in a_3458_n222# gnd sg13_lv_nmos ad=76f pd=0.78u as=0.136p ps=1.48u w=0.4u l=0.92u
X84 vco_delay_cell_1_3.out vco_delay_cell_1_8.out a_666_208# vp sg13_lv_pmos ad=0.114p pd=0.98u as=0.204p ps=1.88u w=0.6u l=0.92u
X85 vco_delay_cell_1_9.in en11n_uq0 vco_delay_cell_1_0.out vp sg13_lv_pmos ad=0.1005p pd=1.34u as=0.1005p ps=1.34u w=0.15u l=0.13u
X86 gnd in a_n418_n1386# gnd sg13_lv_nmos ad=0.136p pd=1.48u as=76f ps=0.78u w=0.4u l=1.84u
X87 vco_delay_cell_1_6.pgt vco_delay_cell_1_6.pgt vp vp sg13_lv_pmos ad=0.114p pd=0.98u as=0.204p ps=1.88u w=0.6u l=1.94u
X88 a_670_n222# vco_delay_cell_1_8.out vco_delay_cell_1_3.out gnd sg13_lv_nmos ad=0.136p pd=1.48u as=76f ps=0.78u w=0.4u l=0.92u
X89 a_n1646_208# vco_delay_cell_1_6.pgt vp vp sg13_lv_pmos ad=0.114p pd=0.98u as=0.204p ps=1.88u w=0.6u l=1.84u
X90 out vco_delay_cell_1_9.in a_3454_208# vp sg13_lv_pmos ad=0.114p pd=0.98u as=0.204p ps=1.88u w=0.6u l=0.92u
X91 vp vco_delay_cell_1_6.pgt vco_delay_cell_1_6.pgt vp sg13_lv_pmos ad=0.204p pd=1.88u as=0.114p ps=0.98u w=0.6u l=1.94u
X92 a_1822_n1856# vco_delay_cell_1_6.pgt vp vp sg13_lv_pmos ad=0.114p pd=0.98u as=0.204p ps=1.88u w=0.6u l=1.84u
X93 vco_delay_cell_1_10.out vco_delay_cell_1_10.in a_n1646_208# vp sg13_lv_pmos ad=0.114p pd=0.98u as=0.204p ps=1.88u w=0.6u l=0.92u
X94 a_734_n1856# vco_delay_cell_1_5.out vco_delay_cell_1_4.out vp sg13_lv_pmos ad=0.204p pd=1.88u as=0.114p ps=0.98u w=0.6u l=0.92u
X95 a_666_208# vco_delay_cell_1_6.pgt vp vp sg13_lv_pmos ad=0.114p pd=0.98u as=0.204p ps=1.88u w=0.6u l=1.84u
X96 vco_delay_cell_1_9.in en11_uq0 vco_delay_cell_1_0.out gnd sg13_lv_nmos ad=0.1005p pd=1.34u as=0.1005p ps=1.34u w=0.15u l=0.13u
X97 vco_delay_cell_1_7.in en11 vco_delay_cell_1_2.out gnd sg13_lv_nmos ad=0.1005p pd=1.34u as=0.1005p ps=1.34u w=0.15u l=0.13u
C0 a_1822_208# vco_delay_cell_1_3.out 0.16084f
C1 a_738_n1386# a_1826_n1386# 0.02176f
C2 a_2910_n1856# vp 0.18983f
C3 a_n422_n1856# a_734_n1856# 0.0192f
C4 vco_delay_cell_1_6.pgt a_666_208# 0.28535f
C5 a_1826_n222# in 0.27584f
C6 vp vco_delay_cell_1_9.in 0.70143f
C7 in vco_delay_cell_1_9.in 0.4372f
C8 a_n486_n222# vco_delay_cell_1_7.in 0.07141f
C9 vco_delay_cell_1_10.out a_n490_208# 0.16084f
C10 a_666_208# vco_delay_cell_1_8.out 0.16084f
C11 vp a_n2734_n1856# 0.18696f
C12 in vco_delay_cell_1_0.out 0.08969f
C13 vco_delay_cell_1_6.pgt a_n1646_208# 0.29993f
C14 vco_delay_cell_1_6.pgt a_n486_n222# 0.02054f
C15 vco_delay_cell_1_6.in a_n2730_n1386# 0.11759f
C16 a_734_n1856# vp 0.19338f
C17 vp a_1822_n1856# 0.19179f
C18 vco_delay_cell_1_6.pgt vco_delay_cell_1_6.out 0.46171f
C19 a_n486_n222# vco_delay_cell_1_8.out 0.10904f
C20 vco_delay_cell_1_6.pgt vco_delay_cell_1_5.out 0.47747f
C21 in a_n1642_n222# 0.27655f
C22 vco_delay_cell_1_6.pgt a_738_n1386# 0.02956f
C23 a_670_n222# in 0.27646f
C24 a_1826_n1386# a_2914_n1386# 0.02176f
C25 a_1826_n222# a_1822_208# 0.01469f
C26 vp vco_delay_cell_1_6.in 0.70665f
C27 a_3454_208# out 0.12838f
C28 vco_delay_cell_1_10.in a_n1646_208# 0.16025f
C29 a_1826_n222# vco_delay_cell_1_3.out 0.12564f
C30 vco_delay_cell_1_10.out a_n1646_208# 0.12909f
C31 a_n486_n222# vco_delay_cell_1_10.out 0.12564f
C32 a_n422_n1856# a_n1578_n1856# 0.0192f
C33 in a_n2730_n1386# 0.28614f
C34 vco_delay_cell_1_9.in vco_delay_cell_1_3.out 0.01631f
C35 vco_delay_cell_1_6.pgt a_1826_n1386# 0.02872f
C36 a_n1574_n1386# a_n2730_n1386# 0.0194f
C37 vco_delay_cell_1_4.out vco_delay_cell_1_1.out 0.52663f
C38 a_n422_n1856# a_n418_n1386# 0.01469f
C39 a_3454_208# vp 0.18563f
C40 a_3458_n222# out 0.11027f
C41 a_n1578_n1856# vp 0.19497f
C42 vco_delay_cell_1_6.pgt a_2914_n1386# 0.02722f
C43 a_734_n1856# vco_delay_cell_1_5.out 0.16084f
C44 in vp 0.11713f
C45 a_734_n1856# a_738_n1386# 0.01469f
C46 a_n490_208# vp 0.19497f
C47 vco_delay_cell_1_6.pgt vco_delay_cell_1_7.in 0.88818f
C48 a_670_n222# vco_delay_cell_1_3.out 0.10904f
C49 a_3458_n222# in 0.2719f
C50 vco_delay_cell_1_7.in vco_delay_cell_1_8.out 0.32596f
C51 en11n_uq0 vp 0.15543f
C52 a_2910_n1856# a_2914_n1386# 0.01469f
C53 vco_delay_cell_1_6.out vco_delay_cell_1_6.in 0.52059f
C54 en11 en5 0.04309f
C55 a_666_208# vp 0.19497f
C56 a_1826_n1386# a_1822_n1856# 0.01469f
C57 vco_delay_cell_1_1.out vco_delay_cell_1_0.out 0.50105f
C58 vco_delay_cell_1_6.pgt vco_delay_cell_1_8.out 0.48844f
C59 vco_delay_cell_1_7.in vco_delay_cell_1_2.out 0.8535f
C60 vco_delay_cell_1_10.in vco_delay_cell_1_7.in 0.07155f
C61 vco_delay_cell_1_6.pgt a_2910_n1856# 0.2813f
C62 vco_delay_cell_1_10.out vco_delay_cell_1_7.in 0.32596f
C63 vco_delay_cell_1_6.pgt vco_delay_cell_1_2.out 0.26421f
C64 a_n1646_208# vp 0.19772f
C65 vco_delay_cell_1_10.in vco_delay_cell_1_6.pgt 0.32312f
C66 vco_delay_cell_1_0.out vco_delay_cell_1_9.in 0.45661f
C67 a_n486_n222# in 0.27646f
C68 vco_delay_cell_1_7.in a_n2734_n1856# 0.16143f
C69 en5 in 0.06624f
C70 vco_delay_cell_1_6.pgt vco_delay_cell_1_10.out 0.48395f
C71 a_n1578_n1856# vco_delay_cell_1_6.out 0.12909f
C72 vco_delay_cell_1_6.pgt a_n2734_n1856# 0.27211f
C73 vco_delay_cell_1_6.out in 0.26072f
C74 vco_delay_cell_1_5.out in 0.26072f
C75 vco_delay_cell_1_6.out a_n1574_n1386# 0.11759f
C76 a_738_n1386# in 0.28681f
C77 a_1826_n222# a_670_n222# 0.0194f
C78 vco_delay_cell_1_6.pgt a_734_n1856# 0.28564f
C79 vco_delay_cell_1_6.pgt a_1822_n1856# 0.28574f
C80 vco_delay_cell_1_6.out a_n418_n1386# 0.12789f
C81 vco_delay_cell_1_10.out vco_delay_cell_1_8.out 0.52059f
C82 en5n vp 0.15205f
C83 vco_delay_cell_1_5.out a_n418_n1386# 0.11759f
C84 a_n418_n1386# a_738_n1386# 0.0194f
C85 a_666_208# a_1822_208# 0.0192f
C86 vco_delay_cell_1_4.out vp 0.69901f
C87 vco_delay_cell_1_7.in vco_delay_cell_1_6.in 0.54333f
C88 a_666_208# vco_delay_cell_1_3.out 0.12909f
C89 vco_delay_cell_1_10.in vco_delay_cell_1_10.out 0.4916f
C90 in a_1826_n1386# 0.28656f
C91 a_2910_n1856# a_1822_n1856# 0.02147f
C92 vco_delay_cell_1_6.pgt vco_delay_cell_1_6.in 0.4352f
C93 vco_delay_cell_1_1.out vp 0.69662f
C94 en5n en11n 0.04467f
C95 a_3454_208# vco_delay_cell_1_9.in 0.16902f
C96 vco_delay_cell_1_6.pgt out 0.04441f
C97 in a_2914_n1386# 0.286f
C98 a_734_n1856# a_1822_n1856# 0.02147f
C99 vp vco_delay_cell_1_9.in 0.11438f
C100 vco_delay_cell_1_7.in vp 0.09827f
C101 in vco_delay_cell_1_7.in 2.27893f
C102 a_n1578_n1856# vco_delay_cell_1_6.pgt 0.28673f
C103 vco_delay_cell_1_6.pgt vp 10.8266f
C104 vp vco_delay_cell_1_0.out 0.24711f
C105 vco_delay_cell_1_6.pgt in 2.62272f
C106 a_3458_n222# vco_delay_cell_1_9.in 0.23389f
C107 vco_delay_cell_1_6.pgt a_n1574_n1386# 0.02985f
C108 vco_delay_cell_1_6.in a_n2734_n1856# 0.12909f
C109 out vco_delay_cell_1_2.out 0.0107f
C110 vco_delay_cell_1_6.pgt a_n418_n1386# 0.0295f
C111 vco_delay_cell_1_5.out vco_delay_cell_1_4.out 0.52453f
C112 vco_delay_cell_1_4.out a_738_n1386# 0.1176f
C113 vp vco_delay_cell_1_8.out 0.71102f
C114 in vco_delay_cell_1_8.out 0.09487f
C115 vp vco_delay_cell_1_2.out 0.28348f
C116 in vco_delay_cell_1_2.out 0.04871f
C117 vco_delay_cell_1_10.in vp 0.5926f
C118 vco_delay_cell_1_10.in in 0.09294f
C119 vco_delay_cell_1_4.out a_1826_n1386# 0.12797f
C120 vco_delay_cell_1_10.out vp 0.71567f
C121 vco_delay_cell_1_10.out in 0.09487f
C122 a_n1578_n1856# a_n2734_n1856# 0.0192f
C123 a_n422_n1856# vp 0.19497f
C124 vco_delay_cell_1_7.in vco_delay_cell_1_3.out 0.32692f
C125 vco_delay_cell_1_6.pgt a_1822_208# 0.28589f
C126 a_670_n222# a_666_208# 0.01469f
C127 vco_delay_cell_1_6.pgt vco_delay_cell_1_3.out 0.48958f
C128 vco_delay_cell_1_1.out a_1826_n1386# 0.1176f
C129 a_n1646_208# a_n1642_n222# 0.01469f
C130 a_n486_n222# a_n1642_n222# 0.0194f
C131 vco_delay_cell_1_3.out vco_delay_cell_1_8.out 0.52059f
C132 a_n486_n222# a_670_n222# 0.0194f
C133 a_3454_208# a_3458_n222# 0.01469f
C134 a_n1578_n1856# vco_delay_cell_1_6.in 0.16084f
C135 in vco_delay_cell_1_6.in 0.26061f
C136 vco_delay_cell_1_6.pgt vco_delay_cell_1_4.out 0.46443f
C137 a_1822_208# vco_delay_cell_1_2.out 0.13902f
C138 a_n1574_n1386# vco_delay_cell_1_6.in 0.12789f
C139 vco_delay_cell_1_1.out a_2914_n1386# 0.12797f
C140 vco_delay_cell_1_2.out vco_delay_cell_1_3.out 0.51434f
C141 en11 in 0.05951f
C142 out vp 0.07279f
C143 a_n490_208# a_666_208# 0.0192f
C144 a_1826_n222# vco_delay_cell_1_7.in 0.07052f
C145 vco_delay_cell_1_6.pgt vco_delay_cell_1_1.out 0.43453f
C146 a_n422_n1856# vco_delay_cell_1_6.out 0.16084f
C147 vco_delay_cell_1_7.in vco_delay_cell_1_9.in 0.01647f
C148 a_n422_n1856# vco_delay_cell_1_5.out 0.12909f
C149 vco_delay_cell_1_6.pgt a_1826_n222# 0.02128f
C150 vco_delay_cell_1_0.out a_2914_n1386# 0.13428f
C151 in vp 0.14317f
C152 a_n1578_n1856# a_n1574_n1386# 0.01469f
C153 vco_delay_cell_1_6.pgt vco_delay_cell_1_9.in 0.27604f
C154 a_n1646_208# a_n490_208# 0.0192f
C155 a_n486_n222# a_n490_208# 0.01469f
C156 a_n1574_n1386# in 0.28676f
C157 a_n418_n1386# in 0.28676f
C158 a_2910_n1856# vco_delay_cell_1_1.out 0.16095f
C159 a_n1574_n1386# a_n418_n1386# 0.0194f
C160 a_3454_208# en5n 0.01535f
C161 a_734_n1856# vco_delay_cell_1_4.out 0.12909f
C162 vco_delay_cell_1_4.out a_1822_n1856# 0.16095f
C163 vco_delay_cell_1_6.out vp 0.71122f
C164 vco_delay_cell_1_6.pgt vco_delay_cell_1_0.out 0.07878f
C165 vco_delay_cell_1_5.out vp 0.71003f
C166 vco_delay_cell_1_7.in a_n1642_n222# 0.07179f
C167 a_1826_n222# vco_delay_cell_1_2.out 0.15356f
C168 a_670_n222# vco_delay_cell_1_7.in 0.07142f
C169 en11n vp 0.15066f
C170 vco_delay_cell_1_9.in vco_delay_cell_1_2.out 0.45373f
C171 vco_delay_cell_1_6.pgt a_n1642_n222# 0.03563f
C172 vco_delay_cell_1_1.out a_1822_n1856# 0.12909f
C173 a_2910_n1856# vco_delay_cell_1_0.out 0.15102f
C174 vco_delay_cell_1_6.pgt a_670_n222# 0.02064f
C175 vco_delay_cell_1_7.in a_n2730_n1386# 0.1444f
C176 vp a_1822_208# 0.18939f
C177 in en11_uq0 0.0108f
C178 vp vco_delay_cell_1_3.out 0.70352f
C179 a_670_n222# vco_delay_cell_1_8.out 0.12564f
C180 in vco_delay_cell_1_3.out 0.09322f
C181 vco_delay_cell_1_6.pgt a_n2730_n1386# 0.0139f
C182 a_n422_n1856# vco_delay_cell_1_6.pgt 0.28565f
C183 vco_delay_cell_1_10.in a_n1642_n222# 0.1252f
C184 a_3454_208# vco_delay_cell_1_6.pgt 0.25666f
C185 vco_delay_cell_1_10.out a_n1642_n222# 0.10904f
C186 vp vco_delay_cell_1_7.in 0.58857f
C187 vco_delay_cell_1_4.out in 0.25209f
C188 en11n a_1822_208# 0.01744f
C189 vco_delay_cell_1_6.out vco_delay_cell_1_5.out 0.52059f
C190 vco_delay_cell_1_5.out a_738_n1386# 0.12789f
C191 vco_delay_cell_1_6.pgt vp 10.2958f
C192 vco_delay_cell_1_6.pgt a_n490_208# 0.28436f
C193 out vco_delay_cell_1_9.in 0.60649f
C194 in vco_delay_cell_1_1.out 0.26289f
C195 a_n2734_n1856# a_n2730_n1386# 0.01469f
C196 a_n490_208# vco_delay_cell_1_8.out 0.12909f
C197 out gnd 0.81822f
C198 vp gnd 0.73252f
C199 vp gnd 2.83718f
C200 a_2910_n1856# gnd 0.39822f
C201 a_n422_n1856# gnd 0.53925f
C202 a_n1578_n1856# gnd 0.28392f
C203 a_n2734_n1856# gnd 0.02945f
C204 vco_delay_cell_1_0.out gnd 0.90748f
C205 a_2914_n1386# gnd 0.31456f
C206 a_1826_n1386# gnd 0.70774f
C207 a_738_n1386# gnd 0.71667f
C208 a_n418_n1386# gnd 0.18965f
C209 a_n1574_n1386# gnd 0.45647f
C210 a_n2730_n1386# gnd 9.88114f
C211 a_3458_n222# gnd 0.88762f
C212 a_1826_n222# gnd 0.17652f
C213 a_670_n222# gnd 0.44378f
C214 a_n486_n222# gnd 0.56222f
C215 a_n1642_n222# gnd 0.1925f
C216 vco_delay_cell_1_7.in gnd 0.10161f
C217 vco_delay_cell_1_9.in gnd 0.09145f
C218 vco_delay_cell_1_2.out gnd 0.92308f
C219 vco_delay_cell_1_3.out gnd 0.18648f
C220 a_3454_208# gnd 0.03558f
C221 a_1822_208# gnd 2.38449f
C222 a_666_208# gnd 0.19092f
C223 a_n1646_208# gnd 0.21754f
.ends

