* PEX produced on Wed Sep 23 07:17:50 PM CEST 2026 using /foss/tools/sak/sak-pex.sh with m=2 and s=1
* NGSPICE file created from vco_delay_cell_2.ext - technology: ihp-sg13cmos5l

.subckt vco_delay_cell_2 pgt out ngt in vp gnd
X0 out in a_n14_n454# gnd sg13_lv_nmos ad=0.408p pd=3.08u as=0.408p ps=3.08u w=1.2u l=3u
X1 a_n14_n454# a_n248_n910# gnd gnd sg13_lv_nmos ad=0.408p pd=3.08u as=0.408p ps=3.08u w=1.2u l=6u
X2 a_n14_292# a_n248_712# vp vp sg13_lv_pmos ad=0.408p pd=3.08u as=0.408p ps=3.08u w=1.2u l=6u
X3 out in a_n14_292# vp sg13_lv_pmos ad=0.408p pd=3.08u as=0.408p ps=3.08u w=1.2u l=3u
C0 in vp 1.08845f
C1 a_n14_292# vp 0.27518f
C2 a_n248_n910# ngt 0.26682f
C3 a_n248_712# a_n248_n910# 0.02399f
C4 in a_n248_n910# 0.19991f
C5 out a_n14_n454# 0.04416f
C6 in ngt 0.07f
C7 out vp 0.12362f
C8 a_n248_712# in 0.16855f
C9 a_n248_712# a_n14_292# 0.31509f
C10 in a_n14_292# 0.19441f
C11 in out 0.28731f
C12 a_n14_292# out 0.03795f
C13 pgt vp 0.14232f
C14 a_n14_n454# vp 0.01328f
C15 a_n248_n910# a_n14_n454# 0.32576f
C16 a_n248_712# pgt 0.26682f
C17 a_n248_n910# vp 0.01155f
C18 pgt in 0.06649f
C19 in a_n14_n454# 0.21574f
C20 a_n248_712# vp 2.5134f
C21 a_n14_292# a_n14_n454# 0.01796f
C22 ngt gnd 0.30275f
C23 pgt gnd 0.16299f
C24 out gnd 0.70934f
C25 vp gnd 0.27766f
C26 a_n14_n454# gnd 2.05761f
C27 a_n14_292# gnd 0.13685f
.ends

